US06617299B1
Methyl 6-methylnicotinate (10 g, 66.2 mmol) was dissolved in dichloromethane (150 ml). 3-Chloroperoxybenzoic acid (17 g, 112 mmol) was added and the mixture was stirred for 3 hours at room temperature. Saturated NaHCO3 solution (200 ml) was added and the mixture was stirred for an additional hour. The dichloromethane layer was separated and the aqueous layer was extracted with dichloromethane (2×100 ml). The combined dichloromethane layers were washed with saturated NaHCO3 (aq) (100 ml), brine (100 ml) and dried (Na2SO4). After evaporation of the solvent methyl 6-(chloromethyl)nicotinate N-oxide (7.8 g, 51.0 mmol) was obtained as a creme colored solid, mp 90.4-90.8° C., which was combined with p-toluenesulfonyl chloride (10.7 g, 56.1 mmol) and dioxane (100 ml) under an Argon atmosphere. The reaction mixture was heated under reflux for 1 night. After cooling to room temperature the solvent was evaporated and the residue dissolved in dichloromethane (200 ml). The solution was washed with saturated Na2CO3 (aq) (2×100 ml), brine (50 ml) and dried (Na2SO4). After evaporation of the solvent the product was purified by column chromatography (SiO2, using hexane/ethyl acetate 10:2.5 as an eluens) to give methyl 6-(chloromethyl)nicotinate (5.71 g, 46% overall yield) as a slightly yellow solid. An analytically pure sample could be obtained by recrstallization from n-hexane, mp 63.5-63.8° C.; 1H-NMR (CDCl3) δ 3.94 (s, 3H) 4.70 (s, 2H), 7.58 (d, 1H, J=8.4 Hz), 8.30 (dd, 1H, J=8.1 Hz, J=2.2 Hz), 9.08 (d, 1H, J=1.5 Hz); Anal. Calcd. for C8H8ClNO2: C 51.77, H 4.34, N 7.55; found: C 51.50, H 4.23, N 7.46.

reactant | Methyl 6-methylnicotinate | 66.2 mmol, 10 g | CC1=NC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | 3-Chloroperoxybenzoic acid | 112 mmol, 17 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | NaHCO3 | 200 ml | C(=O)(O)[O-].[Na+]
reactant | methyl 6-(chloromethyl)nicotinate N-oxide | 51.0 mmol, 7.8 g | ClCC1=[N+](C=C(C(=O)OC)C=C1)[O-] | C8H8ClNO3
reactant | p-toluenesulfonyl chloride | 56.1 mmol, 10.7 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | methyl 6-(chloromethyl)nicotinate | 5.71 g, 46% | ClCC1=NC=C(C(=O)OC)C=C1 | C8H8ClNO2
